US05905149
2-[5-(2-oxindol-3-ylidenemethyl)quinol-8-yloxy]propionic acid sodium salt
To a suspension of 2-[5-(2-oxindol-3-ylidenemethyl)quinol-8-yloxy]propionic acid ethyl ester (150 mg, 0.39 mmol) in dioxane (15 ml) was added dropwise 2N sodium hydroxide (1.0 ml, 2 mmol) and the reaction mixture was stirred for another 1 h at room temperature. The crystalline precipitate was filtered and dried to give pure title compound in 73.8% yield (110 mg).

reactant | 2-[5-(2-oxindol-3-ylidenemethyl)quinol-8-yloxy]propionic acid ethyl ester | 0.39 mmol, 150 mg | C(C)OC(C(C)OC=1C=CC(=C2C=CC=NC12)C=C1C(NC2=CC=CC=C12)=O)=O | C23H20N2O4
reactant | sodium hydroxide | 2 mmol, 2N, 1.0 ml | [OH-].[Na+]
solvent | dioxane | 15 ml | O1CCOCC1 | C4H8O2
product | 2-[5-(2-oxindol-3-ylidenemethyl)quinol-8-yloxy]propionic acid sodium salt | 73.8% yield | [Na+].N1C(C(C2=CC=CC=C12)=CC1=C2C=CC=NC2=C(C=C1)OC(C(=O)[O-])C)=O | InChI=1S/C21H16N2O4.Na/c1-12(21(25)26)27-18-9-8-13(14-6-4-10-22-19(14)18)11-16-15-5-2-3-7-17(15)23-20(16)24;/h2-12H,1H3,(H,23,24)(H,25,26);/q;+1/p-1
